*
R1 2 1 1k
RAmmeter 2 0 1m
V1 1 0 5
* INSTRUCTIONS: Configure the source to produce 5V DC, and construct a simple resistive circuit with the 1k resistor provided. Place the ammeter device in series with the resistor
* SIMULATION INSTRUCTIONS: Perform a transient simulation of 10 milliseconds. Do not wire the oscilloscope probes, as this will override the Ammeter!
* ACTION FUNCTION: Familiarisation
.control
tran 20u 1m
run
print v(2)/1m i(V1)*-1
.endc