*
V1 N001 0 1
R2 0 0 10k
R3 0 0 100k
R4 0 0 1000k
C2 0 0 1n
C3 0 0 100m
C1 N002 0 100u
R1 N002 N001 1k
RAmmeter 0 0 1m
.ic v(N002)=0V
* INSTRUCTIONS: In this experiment, you are required to construct and simulate a simple RC circuit with time constant equal to 100ms. The circuit should be connected to Power Supply 1, with a 1V DC input voltage applies across the circuit. The negative power supply input should be ground. Not all components provided will be of use to you; you must select the most appropriate components to meet the design criteria. After constructing the circuit, perform a simulation on the circuit to validate your results. A sample scope output has been provided - this scope traces the voltage across the capacitor from t=0; Before this time, the source was off and the capacitor was fully discharged.
* ACTION FUNCTION: Transient
.control
tran 50u 500m
run
print v(N002)
.endc