*
Q1 N004 N004 0 0 NPN
Q2 N001 N004 0 0 NPN
V1 N003 0 1
R1 N003 N004 220
V2 N002 0 1
R2 N002 N001 1
R3 N002 N001 10
R4 N002 N001 100
R5 N002 N001 1k
R6 N002 N001 1k
* INSTRUCTIONS: In this familiarisation experiment, you are required to construct a current mirror. Configure source 1 and 2 to provide 1V to the input and output of the current mirror. Select an appropriate biasing resistor to produce approximately 1mA at the input. Rotate the remaining resistors and simulate the circuit to observe the robustness of the current mirror to changes in loads. 
* ACTION FUNCTION: Transient
.control
tran 50u 500m
run
print v(N002)
.endc